US08236806B2
1-(3-(1-tert-butyl-5-(4-methoxyphenyl)-1H-pyrazol-3-yl)propyl)-4-(2-fluorophenyl)piperazine (Compound 42)
132 mg (91%) of target compound was obtained by using a method same as in Example 1 by using 3-(1-tert-butyl-5-(4-methoxyphenyl)-1H-pyrazol-3-yl)propanal (85 mg, 0.297 mmol), 1-(2-fluorophenyl)piperazine (54 mg, 0.297 mmol), DIPEA (0.078 mL, 0.446 mmol) and NaBH(OAc)3 (189 mg, 0.891 mmol).

reactant | 3-(1-tert-butyl-5-(4-methoxyphenyl)-1H-pyrazol-3-yl)propanal | 0.297 mmol, 85 mg | C(C)(C)(C)N1N=C(C=C1C1=CC=C(C=C1)OC)CCC=O | C17H22N2O2
reactant | 1-(2-fluorophenyl)piperazine | 0.297 mmol, 54 mg | FC1=C(C=CC=C1)N1CCNCC1 | C10H13FN2
reactant | DIPEA | 0.446 mmol, 0.078 mL | CCN(C(C)C)C(C)C | C8H19N
reactant | NaBH(OAc)3 | 0.891 mmol, 189 mg | [BH-](OC(=O)C)(OC(=O)C)OC(=O)C.[Na+]
product | 1-(3-(1-tert-butyl-5-(4-methoxyphenyl)-1H-pyrazol-3-yl)propyl)-4-(2-fluorophenyl)piperazine | C(C)(C)(C)N1N=C(C=C1C1=CC=C(C=C1)OC)CCCN1CCN(CC1)C1=C(C=CC=C1)F | C27H35FN4O
